US06646009B2
(E)-styryl-N-4-fluorophenyl sulfonamide
A solution of (E)-styrylsulfonyl chloride (10 mmol) and 4-fluoroaniline (10 mmol) was subjected to General Procedure 1, part B. The title compound, melting point 83-85° C., was obtained 58.7% yield.

reactant | (E)-styrylsulfonyl chloride | 10 mmol | C(=C\C1=CC=CC=C1)/S(=O)(=O)Cl | C8H7ClO2S
reactant | 4-fluoroaniline | 10 mmol | FC1=CC=C(N)C=C1 | C6H6FN
product | (E)-styryl-N-4-fluorophenyl sulfonamide | 58.7% yield | C(=C\C1=CC=CC=C1)/S(=O)(=O)NC1=CC=C(C=C1)F | C14H12FNO2S
